US05514680
6-Bromo-7-chloro-5-nitro-1,4-dihydro-2,3-quinoxalinedione
To a stirred solution of 6-bromo-7-chloro-5-nitroquinoxaline-2(1H)-one (0.025 g, 0.082 mmol) in conc. H2So4 (0.5 mL) was added KNO3 (0.011 g, 0.11 mmol) and the resulting dark red solution was stirred at r.t. for 65 h. The solution was then cooled in an ice-bath and diluted with ice to a total volume of 5.0 mL. The precipitated solid was filtered, washed with water (2.0 mL) and dried under vacuum to give 0.019 g (72%) of crude product. It was purified as follows. Crude product (0.016 g) was taken up in 1N NaOH (1.1 mL). The mixture was centrifuged and the supernatant liquid was acidified with conc. HCl to pH~2. The precipitated solid was filtered, washed with water (1.0 mL) and dried under vacuum to furnish 0.010 g (50%) of pure title compound as a cream colored powder; m.p. 338°-343° C. (decomposed); 1H NMR (DMSO-d6): 7.351 (s, 1H), 12.251 (s overlapped by a br s, 2H).

reactant | 6-bromo-7-chloro-5-nitroquinoxaline-2(1H)-one | 0.082 mmol, 0.025 g | BrC=1C(=C2N=CC(NC2=CC1Cl)=O)[N+](=O)[O-] | C8H3BrClN3O3
reactant | KNO3 | 0.11 mmol, 0.011 g | [N+](=O)([O-])[O-].[K+]
product | 6-Bromo-7-chloro-5-nitro-1,4-dihydro-2,3-quinoxalinedione | 0.010 g, 50% | BrC=1C(=C2NC(C(NC2=CC1Cl)=O)=O)[N+](=O)[O-] | C8H3BrClN3O4
